US04814343
Into a mixture of 229 ml of concentrated sulfuric acid and 620 ml of acetic acid, cooled to 15° C. there is added all at once 311 g of paraformaldehyde (previously washed with 200 ml of acetic acid), followed by 462.6 g (2.23 moles) of 2-bromo-4-chlorophenol. The reaction mixture is stirred for 148 hours at 15° C. It is then neutralized with 3.1 liters of a 7.8N aqueous solution of sodium hydroxide. The precipitate formed is filtered off, dried and then dissolved in toluene. The solution is dried over anhydrous sodium sulfate and then distilled. The residue is stirred in hexane and allowed to crystallize. 364 g of 8-bromo-6-chloro-4H-1,3-benzodioxin are obtained. Yield: 65.5% of theory; M.P.: 108°-110° C.

reactant | sulfuric acid | 229 ml | S(O)(O)(=O)=O | H2O4S
reactant | paraformaldehyde | 311 g | C=O | CH2O
reactant | 2-bromo-4-chlorophenol | 2.23 moles, 462.6 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | 620 ml | C(C)(=O)O | C2H4O2
product | 8-bromo-6-chloro-4H-1,3-benzodioxin | 364 g, Yield: 65.5% | BrC1=CC(=CC2=C1OCOC2)Cl | C8H6BrClO2
